US08026261B2
A clear solution of 3-benzyloxy-1,2-dimethyl-5-(2,2,2-trifluoro-ethyl)-1H-pyridin-4-one (1.1 g, 3.53 mmol) in methanol (32 mL) was debenzylated using Pd/C (10 wt. %, dry basis, on activated carbon, wet, Degussa type E101 NE/W, 0.17 g) as catalyst in a hydrogen atmosphere at a pressure of 50 psi for 30 min. The reaction mixture was diluted with methanol (30 mL), and sonicated for 10 min. A CELITE™ bed was prepared on a sintered glass, and washed with 6M HCl (100 mL), followed by water (7×50 mL) and then methanol (2×50 mL) under suction. The reaction mixture was filtered through the pre-treated CELITE™ bed. The volume of the filtrate was reduced to about 20 mL by evaporation under reduced pressure. HPLC analysis (HPLC Method 1, Example 24) of the filtrate indicated the presence of about 42% (peak percent area) of the starting material. Another 150 mg of Pd/C was added, and the mixture was subjected to the debenzylation reaction condition for a further 20 min, and worked up as described above. The catalyst was filtered off, and the filtrate was evaporated to dryness to afford 3-hydroxy-1,2-dimethyl-5-(2,2,2-trifluoro-ethyl)-1H-pyridin-4-one as a solid product (0.54 g, 69% yield, HPLC Method 1 (Example 24), RT=9.9 min, HPLC purity (peak percent area): 99.3% at λ=280 nm). 1H NMR (DMSO-d6) δ ppm: 7.70 (s, 1H), 3.65 (s, 3H), 3.39 (q, J=11.5 Hz, 2H), 2.26 (s, 3H). MS-ESI (m/z) 222.2 ([M+1]+, 100%), 202.2, 182.2.

reactant | 3-benzyloxy-1,2-dimethyl-5-(2,2,2-trifluoro-ethyl)-1H-pyridin-4-one | 3.53 mmol, 1.1 g | C(C1=CC=CC=C1)OC1=C(N(C=C(C1=O)CC(F)(F)F)C)C | C16H16F3NO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 32 mL | CO | CH4O
catalyst | Pd/C | 0.17 g | [Pd] | Pd
solvent | methanol | 30 mL | CO | CH4O
product | 3-hydroxy-1,2-dimethyl-5-(2,2,2-trifluoro-ethyl)-1H-pyridin-4-one | 69% yield | OC1=C(N(C=C(C1=O)CC(F)(F)F)C)C | C9H10F3NO2
